US09227971B2
A mixture of 1-(7-amino-5-(3,8-diazabicyclo[3.2.1]octan-3-yl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone (11 mg, 0.025 mmol), 4H-1,2,4-triazole-3-carboxylic acid (3.1 mg, 0.027 mmol), EDCI (9.5 mg, 0.05 mmol), HOBt (6.75 mg, 0.05 mmol) and DIEA (26 ul, 0.15 mmol) in DMF (1 ml) was stirred at room temperature overnight. Purification with prep-LC provided 1-(5-(8-(4H-1,2,4-triazole-3-carbonyl)-3,8-diazabicyclo[3.2.1]octan-3-yl)-7-amino-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone, LCMS tR=3.31 Min (10 min run, UV 254 nm). Mass calculated for M+H 535.2, observed LC/MS m/z 534.95 (M+H).

reactant | 1-(7-amino-5-(3,8-diazabicyclo[3.2.1]octan-3-yl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone | 0.025 mmol, 11 mg | NC1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)N2CC1CCC(C2)N1)C(C)=O | C25H25N7O
reactant | 4H-1,2,4-triazole-3-carboxylic acid | 0.027 mmol, 3.1 mg | N=1N=C(NC1)C(=O)O | C3H3N3O2
reactant | EDCI | 0.05 mmol, 9.5 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.05 mmol, 6.75 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.15 mmol, 26 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(5-(8-(4H-1,2,4-triazole-3-carbonyl)-3,8-diazabicyclo[3.2.1]octan-3-yl)-7-amino-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone | N=1N=C(NC1)C(=O)N1C2CN(CC1CC2)C2=NC=1N(C(=C2C(C)=O)N)N=CC1C=1C=NC(=CC1)C1=CC=CC=C1 | C28H26N10O2
